US06599917B1
d) (3R)-3-[2-Benzyl-6-(cis-3-isopropyloxy-4-hydroxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 464 mg of 2-benzyl-6-(cis-3-isopropyloxy-4-hydroxypyrrolidine-1-yl)-3-iodopyridine, 176 mg of (3R)-3-ethynyl-3-quinuclidinol, 122 mg of tetrakis(triphenylphosphine)palladium (0), 10 mg of cuprous iodide, 0.44 ml of triethylamine and 5.0 ml of N,N-dimethylformamide was heated under stirring at 75° C. for 2 hours in a nitrogen atmosphere. The reaction solution was poured into aqueous dilute ammonia, and then extracted with ethyl acetate. The extract was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (1:1) and then with ethyl acetate/methanol (20:1), to give 168 mg of the target compound.

reactant | 2-benzyl-6-(cis-3-isopropyloxy-4-hydroxypyrrolidine-1-yl)-3-iodopyridine | 464 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)O)OC(C)C | C19H23IN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 176 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.44 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
catalyst | tetrakis(triphenylphosphine)palladium | 122 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | (3R)-3-[2-Benzyl-6-(cis-3-isopropyloxy-4-hydroxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol | 168 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C[C@H]([C@H](C2)O)OC(C)C | C28H35N3O3
